US06307070B1
Preparation of 6-methoxy-3-benzofuranone
Chloroacetonitrile (3.5 ml, 55.2 mmol) was added dropwise to a stirred solution containing 3-methoxyphenol (5 ml, 46 mmol) and zinc chloride (6.9 g, 50.6 mmol) in anhydrous dioxane (30 ml) at room temperature. The resulting solution was saturated with dry hydrogen chloride gas. After stirring at room temperature overnight, the yellow precipitate was filtered and washed with anhydrous ether (100 ml). The collected precipitate was dissolved in water (80 ml) and heated to reflux for 1 hour. The solution was allowed to cool to approximately 40° C., and aqueous sodium hydroxide (20% w/v) (7.5 ml) was added. After stirring at that temperature for 30 minutes a pale yellow precipitate had formed. A heterogeneous system was then taken to pH≈7 by addition of hydrochloric acid (1 M). The precipitate was filtered, washed with water, and recrystallized from acetone to give the desired compound as a light yellow powder (4.14 g, 54.8%). 1H NMR: 8 (ppm): 3.85 (OMe); 4.9 (CH2); 6.50-6.46 (2 H-Phenyl); 7.70-7.66 (1 H-Phenyl).

reactant | Chloroacetonitrile | 55.2 mmol, 3.5 ml | ClCC#N | C2H2ClN
reactant | 3-methoxyphenol | 46 mmol, 5 ml | COC=1C=C(C=CC1)O | C7H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 50.6 mmol, 6.9 g | [Cl-].[Zn+2].[Cl-]
product | 6-methoxy-3-benzofuranone | 4.14 g, 54.8% | COC1=CC2=C(C(CO2)=O)C=C1 | C9H8O3
